US06313122B1
C. 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(2-fluorophenyl)benzamide Hydrochloride
Using the procedure described in Example 138, N-(2-fluorophenyl)-2-aminobenzamide (0.89 mmol) and N-(4-pyridyl)isonipecotoyl chloride (2.23 mmol), purifying with RPHPLC Method A, yielded 141 mg (35%) of the title compound.

reactant | N-(2-fluorophenyl)-2-aminobenzamide | 0.89 mmol | FC1=C(C=CC=C1)NC(C1=C(C=CC=C1)N)=O | C13H11FN2O
reactant | N-(4-pyridyl)isonipecotoyl chloride | 2.23 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(2-fluorophenyl)benzamide Hydrochloride | 141 mg, 35% | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=C(C=CC=C2)F)C=CC=C1 | InChI=1S/C24H23FN4O2.ClH/c25-20-6-2-4-8-22(20)28-24(31)19-5-1-3-7-21(19)27-23(30)17-11-15-29(16-12-17)18-9-13-26-14-10-18;/h1-10,13-14,17H,11-12,15-16H2,(H,27,30)(H,28,31);1H
